US07776857B2
Step 2: 3-(Benzyloxy)-8-chloro-1,5-naphthyridine (220 mg, 813 μmol)
A pyrex reaction tube was charged with 8-chloro-1,5-naphthyridin-3-ol (165 mg, 914 μmol), potassium carbonate (631 mg, 4568 μmol), 1-(chloromethyl)benzene (376 μl, 4568 μmol) and 3.7 mL DMF. The tube was sealed and the mixture was heated at 65° C. for 3 h. The reaction was diluted with DCM and washed with water. The organic portion was dried, filtered, and concentrated. The crude material was purified by silica gel chromatography, 0-25% EtOAc in DCM to provide product as a white solid. MS: [M+H]=271.

reactant | 8-chloro-1,5-naphthyridin-3-ol | 914 μmol, 165 mg | ClC=1C=CN=C2C=C(C=NC12)O | C8H5ClN2O
reactant | potassium carbonate | 4568 μmol, 631 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(chloromethyl)benzene | 4568 μmol, 376 μl | ClCC1=CC=CC=C1 | C7H7Cl
reactant | DMF | 3.7 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-(Benzyloxy)-8-chloro-1,5-naphthyridine | C(C1=CC=CC=C1)OC=1C=NC2=C(C=CN=C2C1)Cl | C15H11ClN2O
